US08222246B2
a) 3-Butyl-5-([E]-styryl)-isoxazole-4-carboxylic acid
To a solution of 3-butyl-5-methyl-isoxazole-4-carboxylic acid ethyl ester (15.0 g, 71.0 mmol) and benzaldehyde (7.2 mL, 71.0 mmol) in ethanol (100 mL) was added sodium ethoxide solution (21% in ethanol, 29.1 mL, 78.0 mmol) and the reaction mixture was stirred at reflux for 2 h, cooled to room temperature and stirred for 17 h. Hydrochloric acid (1 N, 85 mL) was added and the resulting mixture was extracted twice with dichloromethane. The combined phases were washed with brine, dried over sodium sulfate and filtered. The filtrate was concentrated to a bright yellow pasty solid and recrystallized from hot heptane/ethyl acetate to afford the title compound (8.0 g, 42%) as a yellow solid. MS: m/e=270.4 [M−H]−.

reactant | 3-butyl-5-methyl-isoxazole-4-carboxylic acid ethyl ester | 71.0 mmol, 15.0 g | C(C)OC(=O)C=1C(=NOC1C)CCCC | C11H17NO3
reactant | benzaldehyde | 71.0 mmol, 7.2 mL | C(C1=CC=CC=C1)=O | C7H6O
reactant | sodium ethoxide | 78.0 mmol, 29.1 mL | [O-]CC.[Na+]
reactant | Hydrochloric acid | 1 N, 85 mL | Cl | ClH
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | 3-Butyl-5-([E]-styryl)-isoxazole-4-carboxylic acid | 8.0 g, 42% | C(CCC)C1=NOC(=C1C(=O)O)\C=C\C1=CC=CC=C1 | C16H17NO3
